US08008317B2
A solution of pyrazinecarbonitrile (2.0 g, 19 mmol) in methanol (20 mL) was treated with sodium methoxide in methanol (25 wt %, 1.3 mL, 5.7 mmol) at room temperature. After 30 minutes, a solution of tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate (4.6 g, 19 mmol) in methanol (20 mL) was added and the reaction was heated to reflux for 19 hours. The reaction mixture was concentrated, dissolved in ethoxyethanol (50 mL) and heated to reflux for 22 hours. The reaction was cooled to room temperature, quenched with acetic acid (0.38 mL, 6.6 mmol) and concentrated. The residue was suspended in ether and filtered to give tert-butyl 4-(5-pyrazin-2-yl-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate as a solid. HRMS (M+H+): observed=331.1876, calculated=331.1877; 1H NMR (400 MHz, CD3OD): δ 9.29 (d, J=1.6 Hz, 1H), 8.70 (dd, J=2.4, 1.6 Hz, 1H), 8.64 (d, J=2.4 Hz, 2H), 4.19-4.15 (m, 2H), 3.15-3.09 (m, 1H), 2.97 (m, 2H), 2.07-2.03 (m, 2H), 1.84-1.75 (m, 2H), 1.48 (s, 9H).

reactant | pyrazinecarbonitrile | 19 mmol, 2.0 g | N1=C(C=NC=C1)C#N | C5H3N3
reactant | sodium methoxide | C[O-].[Na+]
reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | 19 mmol, 4.6 g | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | acetic acid | 6.6 mmol, 0.38 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 5.7 mmol, 1.3 mL | CO | CH4O
product | tert-butyl 4-(5-pyrazin-2-yl-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate | N1=C(C=NC=C1)C1=NC(=NN1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H22N6O2
